US05614518
3-((2(RS)-(Phenoxymethyl)morpholin-4-yl)methyl)-quinoline Hydrogen Oxalate
Quinoline-3-carboxaldehyde (447 mg, 2.8 mmol), 2(RS)-(phenoxymethyl)morpholine (500 mg, 2.59 mmol) and anhydrous formic acid (0.1 ml) were heated at 120° C. (oil bath temperature), with stirring, for 6 hours. The reaction mixture was cooled, 2M hydrochloric acid (20 ml) added and the solution washed with ethyl acetate (20 ml). The aqueous was basified to pH=11 with 2M aqueous sodium hydroxide, then extracted with ethyl acetate (2×30 ml). The combined organics were dried (sodium sulphate) then evaporated to give a gum which was purified by column chromatography on silica (200 g) using ethyl acetate to ethyl acetate/methanol (25:1) to afford the title compound free base as a pale yellow gum (340 mg, 36%). The hydrogen oxalate salt had mp 164°-166° C. (ethanol/water). MS CI+, m/z=335 for (M+H)+. 1H NMR (360 MHz, DMSO-d6) δ2.23 (1H, dd, J1 =J2 ==11 Hz), 2.35 (1H, ddd, J1 =3, J2 =J3 =11 Hz), 2.80 (1H, d, J=11 Hz), 2.97 (1H, d, J=11 Hz), 3.61 (1H, ddd, J1 =2, J2 =J3 =11 Hz), 3.80-3.92 (4H, m), 3.96 (2H, d, J=5 Hz), 6.89-6.94 (3H, m), 7.23-7.28 (2H, m), 7.59-7.64 (1H, m), 7.73-7.78 (1H, m), 7.97-8.04 (2H, m), 8.29 (1H, d, J=2 Hz), 8.90 (1H, d, J=2 Hz). Found: C, 63.38; H, 5.84; N, 6.48. C21H22N2O2.C2H2O4.0.5H2O requires C, 63.73; H, 5.81; N, 6.46%.

reactant | Quinoline-3-carboxaldehyde | 2.8 mmol, 447 mg | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 2(RS)-(phenoxymethyl)morpholine | 2.59 mmol, 500 mg | O(C1=CC=CC=C1)CC1CNCCO1 | C11H15NO2
reactant | hydrochloric acid | 2M, 20 ml | Cl | ClH
reactant | formic acid | 0.1 ml | C(=O)O | CH2O2
product | 3-((2(RS)-(Phenoxymethyl)morpholin-4-yl)methyl)-quinoline Hydrogen Oxalate | C(C(=O)O)(=O)O.O(C1=CC=CC=C1)CC1CN(CCO1)CC=1C=NC2=CC=CC=C2C1 | InChI=1S/C21H22N2O2.C2H2O4/c1-2-7-19(8-3-1)25-16-20-15-23(10-11-24-20)14-17-12-18-6-4-5-9-21(18)22-13-17;3-1(4)2(5)6/h1-9,12-13,20H,10-11,14-16H2;(H,3,4)(H,5,6)
